Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with PMHx of asthma and chronic
lower extremity venous stasis and DVT previously on rivaroxaban
who is presenting with LLE pain

Mr. ___ is currently homeless (for at least the last several
months). He was admitted in ___ after a scrape on
his leg became infected. On that admission, he was treated with
Keflex for ___nd also diagnosed with a chronic LLE 
DVT
for which he was initiated on Rivaroxaban. He was discharged 
with
plans to hook into Health Care for the Homeless to establish
primary care as he was not being followed outpatient at that
time. Unfortunately, it appears that he did not establish care
following this admission. 

He was readmitted in ___ with persistent leg pain iso not
taking prescribed rivaroxaban. His leg pen and swelling/skin
changes were thought to be predominantly due to chronic venous
stasis and poor wound care during that hospitalization. He did
have ___ US that showed L superficial femoral vein and L 
popliteal
vein thrombosis without visualization of deep veins as pt did 
not
tolerate due to pain. He was restarted on rivaroxaban and pain
and swelling improved with this and wound care. It was unclear 
at
that time if his DVT was provoked or not, and he was recommended
to follow up with heme/onc outpatient for determination of AC
duration. He was discharged to ___. 

In the ED: afebrile, HR 95-108, BP 140/80-155/77, SpO2 98% RA
labs notable for Hgb 11.6 (unknown bl), normal BMP, lactic acid
wnl. 
Imaging: LLE with nonocclusive mid and distal femoral vein
thrombosis 
Meds: Started on IV heparin gtt 

On arrival to the floor today, pt provides limited history. He
reports that his leg pain worsened over the last week. He is
currently homeless and reports that he has not been doing
anything for the current pain or skin changes. He denies any CP,
SOB, f/c, or nausea. He did not answer further questions and
reports being in severe leg pain. 

ROS: 10 point review of systems is otherwise negative except as
listed above

 
Past Medical History:
Asthma
LLE DVT
chronic venous stasis 
 
Social History:
___
Family History:
Denies known family history of blood clots
 
Physical Exam:
Admission Exam:
=================
VITALS: Afebrile HR 95-108, BP 140/80-155/77, SpO2 98% RA 
(seeeFlowsheet)
GENERAL: appears disheveled, alert, awake, NAD. 
EYES: Anicteric, PERRL
ENT: Ears and nose without visible erythema, masses, or trauma. 
MMM
CV: RRR, no m/r/g.  
RESP: no increased wob, lungs clear to auscultation in all 
fields
GI: +BS, abd soft, ND. no tenderness to palpation 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities.
SKIN: bilateral ___ with chronic venous stasis changes L > R. LLE
with swelling and pain to palpation. bilateral ___ to touch
but no evidence of streaking erythema or fluid collection. No
purulence or open drainage appreciated. Skin breakdown above L
mid calf/knee
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: reserved

Discharge Exam:
================
Vitals: 98.2 PO 114 / 74 R Lying 58 18 98 Ra  
General: Dishevled but comfortable, lying in bed
HEENT: Anicteric, eyes conjugate, MMM
Cardiovascular: RRR no MRG, nl. S1 and S2
Pulmonary: Lung fields clear to auscultation throughout
Gastroinestinal: Soft, non-tender, non-distended, bowel sounds 
present, no HSM
MSK: No edema, significant muscle mass
Skin: B/l lower extremities with chronic venous stasis changes, 
much more significant on LLE with swelling and ttp along the 
skin at the left lateral ankle with normal ROM without 
significant pain, warm to touch but not hot, no evidence of 
erythema. Skin breakdown just distal to the left knee medially 
without purulence
Neurological: Alert, interactive, speech fluent
Psychiatric: tangential, intermittently paranoid
 
Pertinent Results:
Admission Labs:
===============
___ 02:25PM BLOOD WBC-6.1 RBC-3.79* Hgb-11.6* Hct-36.0* 
MCV-95 MCH-30.6 MCHC-32.2 RDW-14.7 RDWSD-51.1* Plt ___
___ 02:25PM BLOOD Neuts-60.7 ___ Monos-12.6 Eos-2.3 
Baso-0.3 Im ___ AbsNeut-3.70 AbsLymp-1.45 AbsMono-0.77 
AbsEos-0.14 AbsBaso-0.02
___ 02:25PM BLOOD Glucose-134* UreaN-17 Creat-1.0 Na-140 
K-4.8 Cl-108 HCO3-24 AnGap-8*
___ 02:40PM BLOOD Lactate-1.5

Imaging:
=========
___ US ___:
Nonocclusive deep venous thrombus in the left mid and distal
femoral vein. Enlarged left groin lymph node, nonspecific.

***Refused further labs this admission stating we had already 
taken enough blood***
 
Brief Hospital Course:
Mr. ___ is a ___ homeless gentleman with h/o asthma, LLE 
cellulitis and DVT, chronic venous stasis who is presenting with 
LLE pain and swelling likely progression of DVT iso medication 
non-adherence.  

ACUTE/ACTIVE ISSUES:
====================
# LLE Swelling, Pain
# Non occlusive DVT in L mid and distal femoral vein 
Patient with LLE swelling with skin changes consistent with 
chronic venous stasis likely due to untreated DVT on the left. 
Per discussion with patient, he took Xarelto in past but just 
for short while because he didn't have refills on his script. On 
exam, he had no erythema or purulence and no leukocytosis on 
admission however he did have area of slight skin breakdown on 
his left medial shin with some erythema so decision was made to 
treat for possible overlying cellulitis with 5 day course of 
Keflex. For his DVT, he was restarted on a dose pack of Xarelto 
and given a prescription for Xarelto to fill in one month to 
allow continued adherence to anticoagulation. He was seen by 
pharmacy to fill out an application to receive Xarelto through 
the drug company in the future (received voucher this admission) 
and was discharged as below to establish care at ___ 
with Health Care for the Homeless. He was seen by wound care 
this admission and discharged with supplies to care for his leg. 


# Psychosocial Determinants of health
# Fixed beliefs around medical Care: Patient is homeless and has 
been for several years. He declined to tell me exactly where he 
stays and expressed some paranoid behavior this admission though 
some spurs from prior psychiatric hospitalization here at ___ 
against his will. During his hospitalization, he perseverated on 
concerns about infection in his leg, particularly given that he 
reports previously being prescribed abx but the script was 
stolen. We discussed that this was most likely due to his blood 
clot which he at times seemed to understand and at others was 
not open to considering. Based on this and concern about his 
possible fixed delusions and capacity, psych was consulted and 
did not feel that he met criteria for axis 1 disorders and felt 
he had capacity to disagree with the medical assessment. 
Ultimately, patient was amenable to treatment with 
anticoagulants long term and short term antibiotic course. He 
was discharged with plan to go directly to ___ 
to establish PCP at ___ care for the homeless given his lack 
of insurance however patient declined to get in the Lyft to ___ 
after leaving the hospital. 

Transitional Issues:
===================
[ ]Given recurrent DVTs (vs non-healed DVT), would likely 
benefit from lifelong anticoagulation however would favor repeat 
imaging prior to stopping anticoagulation in the future if being 
stopped to ensure resolution of current blood clot
[ ]Noted to have enlarged left groin lymph nodes on US of ___. 
Please follow-up as outpatient and consider additional imaging 
to further evaluate

[x]>30 minutes spent on discharge planning and care coordination 
on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0 
2.  Cephalexin 500 mg PO QID Duration: 5 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*18 Tablet Refills:*0 
3.  Miconazole Powder 2% 1 Appl TP BID Duration: 7 Days 
Apply to left leg 
RX *miconazole nitrate 2 % Apply to left leg twice a day Disp 
#*1 Spray Refills:*0 
4.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) As directed 
tablet(s) by mouth As directed (Twice daily for 3 weeks then 
daily) Disp #*1 Dose Pack Refills:*0
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth Daily at 
dinner Disp #*30 Tablet Refills:*1 
5.  Sarna Lotion 1 Appl TP QID:PRN pruritis 
RX *camphor-menthol [Sarna Anti-Itch] 0.5 %-0.5 % Apply to left 
daily as needed for itching Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
LLE DVT
Chronic venous stasis changes ___ DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with worsening swelling and 
pain in your left leg. You had an imaging study of your leg 
which showed that you have a blood clot (also known as a DVT or 
deep vein thrombosis) in your leg. This is causing your symptoms 
of swelling and pain. It is VERY important that you continue to 
take your Xarelto (rivaroxaban) as prescribed (indefinitely) to 
prevent your clot from worsening. You should NOT skip a dose of 
this medication. 

We are also treating you with Keflex (cephalexin), an 
antibiotic, for any infection in your leg. Please continue to 
take this medication until the script finishes (in 5 days).

Medication plan:
=================
Take Xarelto (rivaroxaban) 15mg Twice daily for 3 weeks 
THEN
Take xarelto (rivaroxaban) 20mg daily ongoing (Script for this 
provided)

Take Keflex (cephalexin) 500mg Every 6 hours for 5 days

For the skin changes on your legs, you were seen by the wound 
care nurses who recommended a cleanser and dressing plan to help 
the swelling improve. Please continue with their recommendations 
after discharge. 

You are now ready for discharge. We are discharging you to 
___ ___ to establish primary care with Health Care 
for the Homeless. When you get there, Please tell them you are 
there to set up care with a primary care doctor. It is VERY 
important that you establish with a primary care doctor to 
continue to prescribe your Xarelto for your DVT (blood clot). 

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___